datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:5])[H:7])[H:6],267.358
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[S:8]([H:9])[H:10]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[S:8][H:10])([H:3])[H:4].[H:9],40.5848
[C:0]([C:1]([C:2]([O:3][O:4])([H:11])[H:12])([O:5][O:6][H:13])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([O:3][O:4][H:7])([H:11])[H:12])([O:5][O:6][H:13])[H:10])([H:8])[H:9],87.864
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])([H:19])[H:20])([H:17])[H:18])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([H:21])([H:22])[H:23])[C:9]([H:24])([H:25])[H:26])[H:12])([H:10])[H:11],72.1322
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([C:10]([H:19])([H:20])[H:21])([O:11][O:12])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][O:12][O:11][C:9]([C:8]([C:7]([H:13])([H:14])[H:15])([H:16])[H:17])([C:10]([H:19])([H:20])[H:21])[H:18],56.9024
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[O:8][O:9]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][O:8][O:9],217.568
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]1[C:7](=[C:8]([H:16])[H:17])[H:15])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[c:1]2[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]2[C:7]([H:15])[C:8]1([H:16])[H:17],94.675552
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[S:14])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:15])[H:5].[C:12]([C:13](=[S:14])[H:18])([H:16])[H:17],60.668
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([S:10][H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:11])([H:4])[H:5].[C:9]([S:10][H:14])([H:12])[H:13],36.4008
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([S:19][H:22])([H:20])[H:21]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:18]([S:19][H:22])([H:20])[H:21],27.196
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:13])[C:23]([C:22]([H:25])([H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28])([H:10])([H:11])[H:12],16.0247
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:10]([C:9](=[C:8]([H:14])[H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20])[H:4],71.7556
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([C:14]([C:15]([O:16][O:17])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:17][O:16][C:15]([C:14]([C:13]([C:12]([H:18])([H:19])[H:20])([H:21])[H:22])([H:23])[H:24])([H:25])[H:26],62.3416
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[O:16][O:17]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])([H:6])[O:16][O:17],0.8313608
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22],14.8532
[C:0]([C:1]([C:2]([O:3][O:4][H:15])([H:13])[H:14])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8])[H:16])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:15])([H:13])[H:14])([C:5](=[C:6]([H:18])[H:19])[H:16])[H:12])([H:9])([H:10])[H:11].[O:7][O:8][H:17],124.6832
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])([H:16])[H:17])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([C:8](=[C:9]([H:21])[H:22])[H:20])[C:7]1([H:18])[H:19])[H:12])([H:10])[H:11],114.307
